US06399601B1
2-Ethynyl-6H-thieno[2,3-b]pyrrole-5-carboxylic Acid [(1S)-Benzyl-2-(3-hydroxy-azetidin-1-yl)-2-oxo-ethyl]-amide
Using a procedure analogous to that of G. M. Whitesides et al (J. Org. Chem., 53: 2489-2496 (1988)), to a solution of 2-trimethylsilanylethynyl-6H-thieno[2,3-b]pyrrole-5-carboxylic acid [(1S)-benzyl-2-(3-hydroxy-azetidin-1-yl)-2-oxo-ethyl]-amide (110 mg, 0.02 mmol) in methanol (0.5 ml) was added a 5% aqueous solution of potassium hydroxide (7 μL, 0.06 mmol). The reaction mixture was stirred for 3 h, concentrated to remove the methanol, diluted with water, and extracted with dichloromethane. The organic phase dried over MgSO4 and concentrated to give the title product (7 mg, 77%).

reactant | 2-trimethylsilanylethynyl-6H-thieno[2,3-b]pyrrole-5-carboxylic acid [(1S)-benzyl-2-(3-hydroxy-azetidin-1-yl)-2-oxo-ethyl]-amide | 0.02 mmol, 110 mg | C(C1=CC=CC=C1)[C@@H](C(=O)N1CC(C1)O)NC(=O)C1=CC2=C(N1)SC(=C2)C#C[Si](C)(C)C | C24H27N3O3SSi
reactant | potassium hydroxide | 0.06 mmol, 7 μL | [OH-].[K+]
solvent | methanol | 0.5 ml | CO | CH4O
product | 2-Ethynyl-6H-thieno[2,3-b]pyrrole-5-carboxylic Acid [(1S)-Benzyl-2-(3-hydroxy-azetidin-1-yl)-2-oxo-ethyl]-amide | 7 mg, 77% | C(C1=CC=CC=C1)[C@@H](C(=O)N1CC(C1)O)NC(=O)C1=CC2=C(N1)SC(=C2)C#C | C21H19N3O3S
